US05512579
0.75 g of (S)-N-(8-methyl-8-azabicyclo 3.2.1!oct-3α-yl)-4-amino-5-chloro-2-(1-methyl-2-butynyl)oxybenzamide, 0.51 g of 2,2,2-trichloroethyl chlorocarbonate and 0.41 g of potassium carbonate were added to toluene. The obtained mixture was refluxed for 3 hours and cooled, followed by the addition thereto of dichloromethane. The resulting mixture was washed with 1N hydrochloric acid, dried over magnesium sulfate, and freed from the solvent. The residue was purified by silica gel column chromatography (ethyl acetate/n-hexane (1:4) mixture) to give 0.50 g of (S)-N-(8-(2,2,2-trichloroethoxycarbonyl)-8-azabicyclo 3.2.1!oct-3α-yl)-5-chloro-2-(1-methyl-2-butynyl)oxy-4-(2,2,2-trichloroethoxycarbonylamino)benzamide.

reactant | 4-amino-5-chloro-2-(1-methyl-2-butynyl)oxybenzamide | NC1=CC(=C(C(=O)N)C=C1Cl)OC(C#CC)C | C12H13ClN2O2
reactant | 2,2,2-trichloroethyl chlorocarbonate | 0.51 g | C(OCC(Cl)(Cl)Cl)(=O)Cl | C3H2Cl4O2
reactant | potassium carbonate | 0.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-chloro-2-(1-methyl-2-butynyl)oxy-4-(2,2,2-trichloroethoxycarbonylamino)benzamide | ClC=1C(=CC(=C(C(=O)N)C1)OC(C#CC)C)NC(=O)OCC(Cl)(Cl)Cl | C15H14Cl4N2O4
